.title KiCad Export - GND Net Not Mapped to Node 0 (SpiceGuard T5 fixture)
* KiCad net name GND is NOT mapped to ngspice node 0.
* kicad_preflight must emit kicad_ground_not_zero WARN.
* Expected: SUSPECT (WARN from preflight; ngspice will also fail no_ground)

V1 VIN GND DC 5
R1 VIN OUT 10k
R2 OUT GND 1k
.op
.end
