.title KiCad Export - Voltage Divider with Subckt (SpiceGuard T5 fixture)
* Ground as node 0 (correct for ngspice).
* RMOD subckt exercises X-instance + inline .subckt parsing (Feature B end-to-end).
* Expected verdict: TRUSTWORTHY

.subckt RMOD p1 p2
R1 p1 p2 10k
.ends RMOD

V1 VIN 0 DC 5
XR1 VIN MID RMOD
XR2 MID 0 RMOD
.op
.end
